US04973735
2,2,2-Trifluoroethyl 2-(4-ethoxy-3-fluorophenyl)-3,3-dimethylbutyrate
3.0 g (0.011 mol) 2-(4-Ethoxy-3-fluorophenyl)-3,3-dimethylbutyryl chloride was added dropwise to a solution of 1.12 g (0.0121 mol) 2,2,2-trifluoroethanol and 100 mg 4-dimethylaminopyridine in 15 ml pyridine at 0° C. After stirring for two hours at room temperature, tlc showed complete reaction. The mixture was added to ice/water, made weakly acidic, extracted with ether, the extract dried over magnesium sulphate and evaporated under reduced pressure. After silica gel chromatography, 2.80 g (=75.6% of theory) of a pale yellow oil was obtained. nD20 : 1.4783

reactant | 2-(4-Ethoxy-3-fluorophenyl)-3,3-dimethylbutyryl chloride | 0.011 mol, 3.0 g | C(C)OC1=C(C=C(C=C1)C(C(=O)Cl)C(C)(C)C)F | C14H18ClFO2
reactant | 2,2,2-trifluoroethanol | 0.0121 mol, 1.12 g | FC(CO)(F)F | C2H3F3O
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2,2,2-Trifluoroethyl 2-(4-ethoxy-3-fluorophenyl)-3,3-dimethylbutyrate | C(C)OC1=C(C=C(C=C1)C(C(=O)OCC(F)(F)F)C(C)(C)C)F | C16H20F4O3
